US06043366
4-(4-chloro-phenyl-amino)-1-(phenylmethyl)-4-piperidine-carboxamide (6.47 g) was dissolved in 31 ml triethyl orthoformate and stirred at 150° C. for 10 d. After cooling to 0° C., the reaction mixture was filtered and the light brown powder washed with ether to yield 8-benzyl-1-4-chloro-phenyl-1,3,8-triazaspiro[4,5]dec-2-en-4-one (3.90 g). M.p. 217-219° C.

reactant | 4-(4-chloro-phenyl-amino)-1-(phenylmethyl)-4-piperidine-carboxamide | 6.47 g | ClC1=CC=C(C=C1)NC1(CCN(CC1)CC1=CC=CC=C1)C(=O)N | C19H22ClN3O
reactant | triethyl orthoformate | 31 ml | C(OCC)(OCC)OCC | C7H16O3
product | 8-benzyl-1-4-chloro-phenyl-1,3,8-triazaspiro[4,5]dec-2-en-4-one | 3.90 g | C(C1=CC=CC=C1)N1CCC2(C(N=CN2C2=CC=C(C=C2)Cl)=O)CC1 | C20H20ClN3O
